US08530480B2
4-(3-Morpholinophenyl)-N-(4-(3-vinyl-1H-1,2,4-triazol-1-yl)phenyl)pyrimidin-2-amine
A mixture of N-(4-(3-bromo-1H-1,2,4-triazol-1-yl)phenyl)-4-(3-morpholinophenyl)pyrimidin-2-amine (0.024 g, 0.05 mmol), tributyl(vinyl)stannane (0.032 g, 0.10 mmol), Pd(PPh3)4 (0.012 g, 0.01 mmol), toluene (0.4 mL) and DMF (0.1 mL) was heated in a sealed tube at 120° C. with microwave irradiation for 1 h. The reaction mixture was cooled down to room temperature. Purification of this material by column chromatography on silica gel (40% EtOAc/hexane) provided the desired product as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.43 (d, 1H), 8.36 (s, 1H), 7.80 (d, 2H), 7.59 (d, 2H), 7.37 (m, 4H), 7.14 (d, 1H), 7.01 (dd, 1H), 6.75 (dd, 1H), 6.27 (d, 1H), 5.51 (d, 1H), 3.84 (m, 4H), 3.20 (m, 4H). MS (ESI) 426.29 (M+H).

reactant | N-(4-(3-bromo-1H-1,2,4-triazol-1-yl)phenyl)-4-(3-morpholinophenyl)pyrimidin-2-amine | 0.05 mmol, 0.024 g | BrC1=NN(C=N1)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC(=CC=C1)N1CCOCC1 | C22H20BrN7O
reactant | tributyl(vinyl)stannane | 0.10 mmol, 0.032 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | toluene | 0.4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.01 mmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 4-(3-Morpholinophenyl)-N-(4-(3-vinyl-1H-1,2,4-triazol-1-yl)phenyl)pyrimidin-2-amine | O1CCN(CC1)C=1C=C(C=CC1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1N=C(N=C1)C=C | C24H23N7O
